US07893056B2
6-Chloro-5-fluoro-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine (0.6773 g, 2.336 mmol) was dissolved in DMSO (7 mL) and hydrazine monohydrate (0.91 mL, 18.72 mmol). The reaction vessel was pressure sealed and heated to 80° C. for 2 hours. The reaction mixture was purified by RP-HPLC to provide 5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone as an orange solid (0.1958 g, 29%). LCMS: (M+H)+=287.1.

reactant | 6-Chloro-5-fluoro-2-(methylthio)-N-(1,3-thiazol-2-ylmethyl)-4-pyrimidinamine | 2.336 mmol, 0.6773 g | ClC1=C(C(=NC(=N1)SC)NCC=1SC=CN1)F | C9H8ClFN4S2
reactant | hydrazine monohydrate | 18.72 mmol, 0.91 mL | O.NN
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 5-fluoro-2-(methylthio)-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone | 0.1958 g, 29% | FC=1C(N=C(NC1NCC=1SC=CN1)SC)=NN | C9H11FN6S2
